US07122580B2
To 3.0 g (2.5 mmol) of above resin-bound [4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetic acid were added 1.30 g (7.5 mmol) of 2-amino-5-bromopyridine, 7.5 mL (7.5 mmol) of 1.0 M DIC in DMF, 7.5 mL (7.5 mmol) of 1.0 M HOBt in DMF, and catalytic amount of DMAP. The resulting mixture was left on a shaker overnight. The resin was washed with DMF, MeOH, DCM three times of each to give resin-bound N-(5-bromo-pyridin-2-yl)-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide

reactant | [4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetic acid | OC=1C=C(OC2=CC=C(C=C2)CC(=O)O)C=CC1[N+](=O)[O-] | C14H11NO6
reactant | 2-amino-5-bromopyridine | 7.5 mmol, 1.30 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | DIC | 7.5 mmol, 1.0 M, 7.5 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 7.5 mmol, 1.0 M, 7.5 mL | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(5-bromo-pyridin-2-yl)-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide | BrC=1C=CC(=NC1)NC(CC1=CC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C19H14BrN3O5
